US06831080B2
Step C: (S)-3-Phenyl-N-[1-(3-trifluoromethanesulfonyloxy-phenyl)ethyl]-acrylamide
To a solution of (S)-3-phenyl-N-[1-(3-hydroxyphenyl)ethyl]acrylamide (0.7 g) in CH2Cl2 (15 mL) at-78° C. was added pyridine (1.1 mL) followed by triflic anhydride (0.49 mL). The resulting solution was warmed to room temperature and stirred at room temperature for 12 hours. Water was added, and the mixture was extracted with CH2Cl2 (three times). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude product was purified by silica gel chromatography eluting with 40% EtOAc/60% hexane to provide the title compound.

reactant | (S)-3-phenyl-N-[1-(3-hydroxyphenyl)ethyl]acrylamide | 0.7 g | C1(=CC=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)O | C17H17NO2
reactant | pyridine | 1.1 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 0.49 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Phenyl-N-[1-(3-trifluoromethanesulfonyloxy-phenyl)ethyl]-acrylamide | C1(=CC=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F | C18H16F3NO4S
